US06211234B1
A mixture of 4-[2-cyano-5-(3-pyridylmethoxy)-phenoxy]-4-(2-methylphenyl)butanoic acid, thought to be the (R)-enantiomer, (50 mg), dicyclohexylamine (0.5 mL) and diethyl ether (10 mL) is stirred at ambient temperature for 18 hours. The resulting precipitate is collected and washed with diethyl ether, to give dicyclohexylammonium 4-[2-cyano-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate, thought to be the (R)-enantiomer, (30 mg) in the form of a white solid, m.p. 92-93° C.

reactant | 4-[2-cyano-5-(3-pyridylmethoxy)-phenoxy]-4-(2-methylphenyl)butanoic acid | C(#N)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C24H22N2O4
reactant | dicyclohexylamine | 0.5 mL, 50 mg | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | dicyclohexylammonium 4-[2-cyano-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | C(#N)C1=C(OC(CCC(=O)[O-])C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1.C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C24H22N2O4.C12H23N/c1-17-5-2-3-7-21(17)22(10-11-24(27)28)30-23-13-20(9-8-19(23)14-25)29-16-18-6-4-12-26-15-18;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h2-9,12-13,15,22H,10-11,16H2,1H3,(H,27,28);11-13H,1-10H2
